data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2997,"O=C(C1=CC=CC=C1)C1C=C(C2=CC=CC=C2)OC1(C1=CC=CC=C1)[OH:1].O=S(=O)(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1579,"COC(=[O+][Li:1])C1CCCC1N(C(C)C)C(C)C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,5661,"CC(=O)CC1CC[CH:1]([S:2]C2=CC=CC=C2)[C:3]1=[C:4](C)[O-:5].O.[K+]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,941,"C=CCOC1OC(COC(C)=O)C([O:1]C(C)(C)O)C(O)C1OC(C)=O.CC(=O)[O:2][H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8213,"CC1CC(C2=CC=CC=C2)[C:1](C)=[CH:2]1.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2970,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])OC=C(S(=O)(=O)O)[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,3325,"CCOC(=O)C[C:1](OCC)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4655,"O=S(=O)(O)[O-:1].[NH3+]C1=CC=C[C:2](S(=O)(=O)O)([H:3])[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,994,"CO[Si-:1](C)(C)(C)[O:2]C(C)=O|((1, 2), 2)"
train,pmechdb_split_0,0,6611,"C=CC(C)=O.CC1=C(CCO)SC(C(C(C)C)[O-:1])=[N+]1CC1=CC=CC=C1.CC[N+:2](CC)(CC)[H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5925,"CC[SH:1].[CH2:2]=[CH:3][CH:4]=[OH+:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3890,"[CH3][Mg-]([Cl])[P:1](C)(Cl)(Cl)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6038,"CC(C)[C:1]1([H:2])C2=C(C=C[CH+:3]1)C=C([N+](=O)[O-])C=C2.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3109,"O=S(=O)(O)[O:1][H:2].OCCCCC1C[O:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6943,"CCC1C[CH:1]([H:2])[C+:3](C)C1.CC[OH:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2382,"CCO[Si-:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,5660,"C[Si](C)(C)[O+:1]1CC[O:2][C:3]1(C)C|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,9350,"CCN(CC)[C:1]([CH2:2][H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5950,"C[S:1]C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1141,"C1=C[N:1]=CN1.CC(C)(C)[Si:2](C)(C)Cl.CC1(CO)CC(C)(C)C2OC2C1=O|(1, 2)"
train,pmechdb_split_0,0,9896,"CC[OH:1].C[CH+:2]C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,2057,"CC[CH:1](C)[C:2](CC)=[N:3][O:4]S(C)(=O)=O|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3531,"CCCCCC1=C[C:1]([OH:2])=[C:3]([CH:4](C=C(C)CCC=C(C)C)[OH2+:5])C(O)=C1.[Cl-]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4155,"CC(N)=[O:1].C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,3477,"CC(Br)[CH:1](C)[Br:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5825,"CC1=C(CCO)SC=[N+]1CC1=CC=C(CC[N+]2=C(C(CCCOCC3=CC=CC=C3)(C(C3=CC=CC=C3)[CH:1]=[C:2](C3=CC=CC=C3)[O-:3])[O:4][H:5])SC(CCO)=C2C)C=C1.CCO.CC[NH+](CC)CC.[Br-]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,8190,"CC1=CC([OH:1])CC(C)(C)CC(O)=C1.O=C(O)C(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2085,"CC[NH:1]C(C)(C)O.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10024,"CCCC=C(C1=C(O)C=CC(Br)=C1)[O-:1].O.O=C(C(F)(F)F)[O:2][H:3].O=[N+]([O-])C1=CC=C(C=[N+]2CCCC2C2=NN=NN2)C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5421,"C#CC[O+]([K])[C:1](SC)([CH:2]=[C:3](C1=CC=CC=C1)[O-:4])[S+:5](C)C|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,1755,"CC(C)=O.CC1=CC=C(C2CC[C:1](=[O+:2]CCO)CC2)C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3932,"CC(=O)C1=C2C=C[CH:1]=[CH:2]C2=CC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3025,"C[CH:1]([NH3+:2])[O:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7856,"C=C[C:1](Cl)=[O:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6405,"C[CH:1](C#N)[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,43,"C[C:1](C)([O:2]C)[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1744,"CC(Cl)(C#N)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8699,"O=C(O)NC(NC(C([N+](=O)[O-])[N+](=O)[O-])=[O:1])=C([N+](=O)[O-])[N+](=O)[O-].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8545,"CC(NCCC1=CC(O)=C(O)C=C1)[OH:1].O.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7613,"C=C1CCC23CC1C([O-:1])=CC2CCC3C.CC[NH+](CC)CC.CC[Si:2](CC)(CC)OS(=O)(=O)C(F)(F)F|(1, 2)"
train,pmechdb_split_0,0,7253,"[CH2:1]=[S:2]|((1, 2), 2)"
train,pmechdb_split_0,0,2178,"CCOC(=O)[CH-:1][C:2]1([S:3][P+:4](OC)(OC)OC)CCCC2(C)OCC(C3=CC=CC=C3)N21.CC[NH+](CC)CC.[Br-]|(1, 2);((2, 3), 4)"
train,pmechdb_split_0,0,2615,"CCCC=C(C)C=[N:1]C(C)(C)C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7080,"C=CC(SCC)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4952,"COC(C(C)Br)=[O+:1][H:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7857,"CC(C)(C(=O)C1CCCC2=C(C=CC=C2)C1=O)[O:1][H:2].CCCC(C(C)CC)[O-:3].O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9108,"CC1NCCC2=CC(O)=C(O)[CH+:1][C:2]21[H:3].[OH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,721,"CCC[C:1](OCC)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,170,"O=C(C[NH2+:1][H:2])[O][Ca][OH].[OH][Ca][OH:3]|(3, 2);((2, 1), 1)"
